US08629137B2
6-(6-chloro-pyrimidine-4-carbonyl)-3-ethyl-4-methyl-3H-benzoxazol-2-one
44 mg (1.0 mmol) sodium hydride (55%, suspension in mineral oil) were added to 0.25 g (0.86 mmol) 6-(6-chloropyrimidine-4-carbonyl)-4-methyl-3H-benzoxazol-2-one in 2.0 mL DMF and the mixture was stirred for 30 min at RT. Then 98 μL (1.2 mmol) ethyl iodide were added and the mixture was stirred for 1 h at RT. The reaction mixture was diluted with ice water and extracted with EtOAc. The organic phase was washed with water, dried on sodium sulphate, filtered and evaporated down i. vac. The residue was purified by flash chromatography. The fractions containing the product were combined and evaporated down.

reactant | sodium hydride | 1.0 mmol, 44 mg | [H-].[Na+]
reactant | 6-(6-chloropyrimidine-4-carbonyl)-4-methyl-3H-benzoxazol-2-one | 0.86 mmol, 0.25 g | ClC1=CC(=NC=N1)C(=O)C1=CC2=C(NC(O2)=O)C(=C1)C | C13H8ClN3O3
reactant | ethyl iodide | 1.2 mmol, 98 μL | C(C)I | C2H5I
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | 6-(6-chloro-pyrimidine-4-carbonyl)-3-ethyl-4-methyl-3H-benzoxazol-2-one | ClC1=CC(=NC=N1)C(=O)C1=CC2=C(N(C(O2)=O)CC)C(=C1)C | C15H12ClN3O3
